US09388189B2
(S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide
(S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide (152 mg, 0.21 mmol) was treated with trifluoroacetic acid (1 ml, 12.9 mmol) and a solution of ammonia (7N in methanol, 5 mL, 35 mmol) according to the method described in Example 27 to give 23 mg (18% yield) of the title compound. Purity 98%.

reactant | (S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide | 0.21 mmol, 152 mg | O=C1N(C(=NN2C1=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)COCC[Si](C)(C)C)C1=CC=CC=C1 | C35H39N9O4SSi
reactant | trifluoroacetic acid | 12.9 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 35 mmol, 7N, 5 mL | N | H3N
product | (S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide | 23 mg, 18% yield | O=C1N(C(=NN2C1=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)C1=CC=CC=C1 | C29H25N9O3S
